US06143764
6,7-Dimethoxy-4-(3,4-dimethoxyphenoxy)quinoline [8]
4-Chloro-6,7-dimethoxyquinoline (90 mg) and commercially available 3,4-dimethoxyphenol (187 mg) were mixed and stirred at 180° C. for 30 minutes, and the mixture was then purified by column chromatography on silica gel eluting with hexane/acetone to obtain 26 mg of the title compound (yield: 19%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 90 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3,4-dimethoxyphenol | 187 mg | COC=1C=C(C=CC1OC)O | C8H10O3
product | 6,7-Dimethoxy-4-(3,4-dimethoxyphenoxy)quinoline | 26 mg, yield: 19% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)OC)OC | C19H19NO5
